US07319099B2
(c) 1-[2,3-Difluoro-4-(propane-2-sulfonyl)-phenyl]-piperazine hydrochloride
To 7.5 mmol 4-[2,3-difluoro-4-(propane-2-sulfonyl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester in 100 ml dioxane was added 30.2 mmol HCl (as a 4 M solution in dioxane), and the mixture was heated at 80° C. for 1 h. The mixture was then cooled to room temperature, and the ensuing white crystals were collected by filtration, washing twice with ether, to afford the title compound.

reactant | 4-[2,3-difluoro-4-(propane-2-sulfonyl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 7.5 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=C(C=C1)S(=O)(=O)C(C)C)F)F | C18H26F2N2O4S
reactant | HCl | 30.2 mmol | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-[2,3-Difluoro-4-(propane-2-sulfonyl)-phenyl]-piperazine hydrochloride | Cl.FC1=C(C=CC(=C1F)S(=O)(=O)C(C)C)N1CCNCC1 | InChI=1S/C13H18F2N2O2S.ClH/c1-9(2)20(18,19)11-4-3-10(12(14)13(11)15)17-7-5-16-6-8-17;/h3-4,9,16H,5-8H2,1-2H3;1H
